US06875765B2
A mixture of 11.2 g (21.7 mmol) (S)-3-(4-amino-2-benzyloxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester and 50 mL dichloromethane and cooled to 0° C. in an ice/water bath. 3.2 mL (25 mmol) N-ethylmorpholine was added, followed by dropwise addition of 1.71 mL (24 mmol) acetyl chloride. After 10 min reaction time, TLC analysis showed complete reaction. The mixture was transferred to a separatory funnel and washed with 50 mL water, 50 mL brine, dried over anhydrous magnesium sulfate, filtered and concentrated to give 12 g (21.8 mmol, 100%) of (S)-3-(4-acetylamino-2-benzyloxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester as a brown oil. MS (APCI) m/z 549.1 (M−1), 459.1 (M-CH2Ph).

reactant | (S)-3-(4-amino-2-benzyloxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester | 21.7 mmol, 11.2 g | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)N)OCC1=CC=CC=C1)=O | C25H36N2O7S
reactant | N-ethylmorpholine | 25 mmol, 3.2 mL | C(C)N1CCOCC1 | C6H13NO
reactant | acetyl chloride | 24 mmol, 1.71 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-3-(4-acetylamino-2-benzyloxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester | 21.8 mmol, 12 g, 100% | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCC1=CC=CC=C1)=O | C27H38N2O8S
